US05234938
20 Grams of 2-chloro-4-nitrophenol was dissolved in 200 ml of N,N-dimethylformamide, and 3.4 g of potassium hydroxide was added thereto. Tetrafluoroethylene was blown into the resulting solution at an inner temperature of 50° C., after which stirring was continued for 50 minutes at an inner temperature of 50° C. Thereafter, 3.5 g of potassium hydroxide was added to the stirred solution and the resulting solution was further stirred for 6 hours at an inner temperature of 100° C. The reaction solution was poured into ice water and extracted with ether. The organic layer was washed with water, dried over anhydrous sodium sulfate and concentrated. The residue obtained wa subjected to column chromatography on silica gel with chloroform as an eluent to obtain 12.55 g of 3-chloro-4-(1',1',2',2'-tetrafluoroethoxy)nitrobenzene. 1H-NMR (CDCl3): δ(ppm) 8.37(1H, d, J=3 Hz), 8.20(1H, dd, J=9, 3 Hz), 7.57(1H, d, J=9 Hz), 6.07(1H, tt, J=53, 3 Hz)

reactant | 2-chloro-4-nitrophenol | ClC1=C(C=CC(=C1)[N+](=O)[O-])O | C6H4ClNO3
reactant | potassium hydroxide | 3.4 g | [OH-].[K+]
reactant | Tetrafluoroethylene | FC(=C(F)F)F | C2F4
reactant | potassium hydroxide | 3.5 g | [OH-].[K+]
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-chloro-4-(1',1',2',2'-tetrafluoroethoxy)nitrobenzene | 12.55 g | ClC=1C=C(C=CC1OC(C(F)F)(F)F)[N+](=O)[O-] | C8H4ClF4NO3
